US08124780B2
(13a) 5,9-dioxaspiro[3.5]non-7-ylmethanol
A mixture of 2-(hydroxymethyl)-1,3-propanediol (5.58 g, 52.6 mmol), cyclobutanone (3.69 g, 52.6 mmol), p-toluenesulfonic acid monohydrate (550 mg, 2.89 mmol) and benzene (92.9 ml) was refluxed in a round-bottom flask equipped with a cooling tube and Dean-Stark for 8 hours and 35 minutes. After the reaction mixture was cooled to room temperature, triethylamine (1 ml) was added to the reaction mixture and the mixture was concentrated. The residue was purified by silica gel column chromatography (silica gel: 300 g, elution solvent: heptane, heptane/ethyl acetate=1/1). The fractions containing the title compound were collected with ethyl acetate and concentrated. The residue was dissolved in diethyl ether and then the mixture was concentrated to obtain the title compound (6.08 g, yield: 73.1%) as a pale yellow oil.

reactant | 2-(hydroxymethyl)-1,3-propanediol | 52.6 mmol, 5.58 g | OCC(CO)CO | C4H10O3
reactant | cyclobutanone | 52.6 mmol, 3.69 g | C1(CCC1)=O | C4H6O
reactant | benzene | 92.9 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid monohydrate | 2.89 mmol, 550 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 5,9-dioxaspiro[3.5]non-7-ylmethanol | 6.08 g, yield: 73.1% | C1CCC12OCC(CO2)CO | C8H14O3
